US04356313
Carrying out a reaction as described in Example 1, Step D, except that the 5,6-dichloro-9a-ethyl-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one and ethyl bromoacetate are replaced by equimolar quantities of 5,6-dichloro-7-hydroxy-9a-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one and ethyl 1-bromocyclopentane-1-carboxylate, there is obtained ethyl 1-[(5,6-dichloro-9a-methyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]cyclopentane-1-carboxylate.

reactant | 5,6-dichloro-9a-ethyl-7-hydroxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)O)CC)=O | C15H14Cl2O2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | 5,6-dichloro-7-hydroxy-9a-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)O)C)=O | C14H12Cl2O2
reactant | ethyl 1-bromocyclopentane-1-carboxylate | BrC1(CCCC1)C(=O)OCC | C8H13BrO2
product | ethyl 1-[(5,6-dichloro-9a-methyl-3-oxo-1,2,9,9a-tetrahydro-3H-fluoren-7-yl)oxy]cyclopentane-1-carboxylate | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OC1(CCCC1)C(=O)OCC)C)=O | C22H24Cl2O4
